US07268150B2
2.0 g of m-chloroperbenzoic acid was added to 1.0 g of tert-butyl [1-(thiomorpholine-4-carbonyl)piperidin-4-yl]carbamate in 10 ml of methylene chloride under cooling with ice-water bath. The reaction mixture was allowed to room temperature, and stirred for 18 hours. Aqueous saturated sodium thiosulfate solution was added to the reaction mixture, and this was extracted with EtOAc. The organic layer was washed with aqueous saturated sodium hydrogencarbonate and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The resulting solid was washed with diisopropyl ether to obtain 607 mg of tert-butyl [1-(1,1-dioxothiomorpholine-4-carbonyl)piperidin-4-yl]carbamate.

reactant | m-chloroperbenzoic acid | 2.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | tert-butyl [1-(thiomorpholine-4-carbonyl)piperidin-4-yl]carbamate | 1.0 g | N1(CCSCC1)C(=O)N1CCC(CC1)NC(OC(C)(C)C)=O | C15H27N3O3S
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl [1-(1,1-dioxothiomorpholine-4-carbonyl)piperidin-4-yl]carbamate | 607 mg | O=S1(CCN(CC1)C(=O)N1CCC(CC1)NC(OC(C)(C)C)=O)=O | C15H27N3O5S
